Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain.
 
Major Surgical or Invasive Procedure:
Cardiac catheterization.
 
History of Present Illness:
___ yo M (cardiology pt of Dr. ___ with CAD s/p LAD stent 
in ___, cardiomyopathy per pt EF 35-40%, presenting with 
unstable angina. Pt reports chest pain began at 2am on ___ 
after dancing. Describes it as dull pressure on left side of 
chest radiating down arm. He took a total of 3 nitroglycerin 
tablets with relief of pain. Had two more episodes of chest pain 
at ___ store, took 2 additional nitroglycerin tablets and 
presented to ___. EKG showed NSR with anteroseptal Q's 
and 1 mm STD with TWI in V3-5. Unclear what baseline EKG is as 
last EKG from ___ was prior to stent. Trops were reportedly 
negative x 2. He had ___ chest pain and was started on nitro 
gtt. He was given 325mg aspirin and morphine. Had vagal episode 
which pt reports was from anxiety (reports hx of vagal 
episodes); did not lose consciousness. He was given atropine for 
bradycardia and hypotension at the time. There was some concern 
that nitro gtt had caused ___ episode, though patient denies.  
At ___ ___, initial VS were:98.4 55 114/68 16 99%. He was 
continued on heparin gtt. Nitro gtt was discontinued. He was 
seen by ___ cardiology with plans for cardiac catheterization 
tomorrow. He reported continued substernal left-sided 
discomfort, 0.5/10, upon first arriving to floor. This resolved 
to ___ soon after initial history was taken. 
 
REVIEW OF SYSTEMS:  
(+) per HPI  
(-) fever, chills, rhinorrhea, congestion, sore throat, nausea, 
vomiting, constipation, BRBPR, melena, hematochezia  
 
Past Medical History:
CAD s/p anteroseptal MI with BMS to LAD in ___rohn's disease  
PSC
Migraine  
Anxiety disorder  
Depression  

 
Social History:
___
Family History:
Mother: MI (late ___  
Maternal grandparents: heart disease  

 
Physical Exam:
Upon admission: 
VS: 97.9 118/70 50 18 100%RA  
GENERAL: well appearing  
HEENT: NC/AT, PERRLA, EOMI, sclerae anicteric, MMM  
NECK: supple  
LUNGS: CTA bilat, no r/rh/wh, good air movement, resp unlabored, 
no accessory muscle use  
HEART: RRR, no MRG, nl S1-S2  
ABDOMEN: normal bowel sounds, soft, non-tender, non-distended, 
no rebound or guarding, no masses  
EXTREMITIES: no edema, 2+ pulses radial and dp  
NEURO: awake, A&Ox3  

At discharge: 
PE: 64 kg, 98.1 110-118/68-70 46-48 ___ 98%RA  
GENERAL: well appearing, NAD  
HEENT: NC/AT, PERRLA, EOMI, sclerae anicteric, MMM  
NECK: supple  
LUNGS: CTA bilat, no r/rh/wh, good air movement, resp unlabored, 
no accessory muscle use  
HEART: RRR, no MRG, nl S1-S2  
ABDOMEN: normal bowel sounds, soft, non-tender, non-distended, 
no rebound or guarding, no masses  
EXTREMITIES: no edema, 2+ pulses radial and dp  
NEURO: awake, A&Ox3  
 
Pertinent Results:
Labs: 
___ 07:00PM BLOOD WBC-8.6 RBC-4.07* Hgb-12.6* Hct-38.7* 
MCV-95 MCH-30.8 MCHC-32.4 RDW-12.5 Plt ___
___ 07:00PM BLOOD Neuts-57.5 ___ Monos-7.0 Eos-2.2 
Baso-1.2
___ 06:55AM BLOOD WBC-7.9 RBC-4.02* Hgb-12.3* Hct-38.2* 
MCV-95 MCH-30.6 MCHC-32.1 RDW-12.5 Plt ___
___ 07:00PM BLOOD ___ PTT-108.0* ___
___ 11:50PM BLOOD PTT-143.7*
___ 06:55AM BLOOD ___ PTT-88.8* ___
___ 07:00PM BLOOD Glucose-107* UreaN-20 Creat-0.9 Na-138 
K-3.9 Cl-105 HCO3-28 AnGap-9
___ 06:55AM BLOOD Glucose-78 UreaN-14 Creat-0.8 Na-141 
K-4.0 Cl-108 HCO3-30 AnGap-7*
___ 06:55AM BLOOD ALT-49* AST-57* CK(CPK)-40* AlkPhos-225* 
TotBili-0.9
___ 07:00PM BLOOD cTropnT-<0.01
___ 11:50PM BLOOD CK-MB-2 cTropnT-<0.01
___ 06:55AM BLOOD CK-MB-2 cTropnT-<0.01
___ 06:55AM BLOOD Calcium-9.2 Phos-3.9 Mg-2.1

Micro: none

Imaging: 
___ cardiac cath: final report pending, but prelim report 
notes minimal LAD stent restenosis and large RCA aneurysm
 
Brief Hospital Course:
___ yo male with history of CAD s/p anteroseptal MI with BMS to 
LAD in ___, systolic heart failure with EF 35-40%, HTN, and HL 
who presented with his anginal equivalent. 

# Chest pain: Reported several episodes of chest pain, 
momentarily relieved by nitroglycerin. He reported that he had 
missed one day of his aspirin/plavix.  EKG showing nonspecific 
changes (T wave inversions in V2-5, st depressions in V3-5), 
similar to prior EKGs since ___.  No new EKG changes with 
troponins negative x3.  There was some concern for stent 
restenosis, so cardiac catheterization was performed which 
revealed only mild restentosis of the BMS without acute 
occlusion.  A large aneurysm of the RCA was also noted.  He was 
medically optimized with the addition of lisinopril 2.5mg qhs to 
his current regimen of ASA 81, metoprolol succinate 25mg daily, 
and plavix 75mg daily.  Medication adherence was strongly 
stressed.  Metoprolol succinate was continued despite his low 
resting heart rates, given a recent stress test from ___ 
___ which showed an excellent cardiopulmonary response to 
exercise even while on metoprolol.  He is going to follow up 
with his cardiologist, Dr. ___ week.
 
# Crohn's disease: Well-controlled on asacol. No recent episodes 
of diarrhea, abd pain, dark or bloody stools. Hct at baseline 
throughout admission.

# Vagal episode: Reportedly had vagal episode with 
hypotension/bradycardia while on nitro gtt at OSH (though 
records unavailable). Per pt, he often has vagal episodes 
associated with anxiety provoking moments and believes this was 
the reason. Denies LOC.  

# Depression: Buproprion continued.

# Primary sclerosing cholangitis: Ursodiol continued, bilirubin 
within normal limits.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 325 mg PO DAILY 
2. Clopidogrel 75 mg PO DAILY 
3. Mesalamine ___ 2400 mg PO BID 
4. Atorvastatin 40 mg PO DAILY 
5. Ursodiol 600 mg PO BID 
6. Lorazepam 1 mg PO BID:PRN anxiety 
7. BuPROPion (Sustained Release) 150 mg PO QAM 
8. Metoprolol Succinate XL 25 mg PO DAILY 

 
Discharge Medications:
1. Atorvastatin 40 mg PO DAILY 
2. BuPROPion (Sustained Release) 150 mg PO QAM 
3. Clopidogrel 75 mg PO DAILY 
4. Lorazepam 1 mg PO BID:PRN anxiety 
5. Mesalamine ___ 2400 mg PO BID 
6. Ursodiol 600 mg PO BID 
7. Metoprolol Succinate XL 25 mg PO DAILY 
8. Lisinopril 2.5 mg PO HS RX *lisinopril 2.5 mg 1 tablet(s) by 
mouth at bedtime Disp #*30 Tablet Refills:*0
9. Aspirin 81 mg PO DAILY 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
primary: chest pain
secondary: coronary artery disease, chronic systolic heart 
failure
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you at ___ 
___. You were admitted for evaluation of your arm and 
chest pain. You went to the cath lab and it revealed a patent 
stent from your catheterization with no acute occlusion. It is 
very important you take your medications EVERY DAY, in 
particular the aspirin and plavix!

DO not stop taking your aspirin and plavix unless specificially 
instructed to by your cardiologist!

The following changes were made to your medication regimen: 
START lisinopril 2.5mg at night

Check your heart rates at home, and call your doctor if you 
experience lightheadedness or dizziness.
 
Followup Instructions:
___